US04841076
Synthesis of ethyl {[5-chloro-3-(4-methoxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate
In 150 ml of acetone was dissolved 5.5 g of ethyl {[5-chloro-3-(4-hydroxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate under heating, and 4.8 g of anhydrous potassium carbonate was added thereto. To the solution was added 3.4 ml of methyl iodide, followed by refluxing for 2 hours. After cooling, the solvent was removed by distillation under reduced pressure. Water was added to the residue, and the insoluble material was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was recrystallized from ethanol-chloroform to obtain 5.0 g of the entitled compound having a melting point of 121° to 122° C.

reactant | ethyl {[5-chloro-3-(4-hydroxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate | 5.5 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=CC=C(C=C2)O)=O)OCC(=O)OCC | C19H15ClO6
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 3.4 ml | CI | CH3I
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | ethyl {[5-chloro-3-(4-methoxyphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate | 5.0 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=CC=C(C=C2)OC)=O)OCC(=O)OCC | C20H17ClO6
